US08466282B2
Tert-butyl (3R,5S)-3-(1H-benzimidazol-2-yl)-5-[{[1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]piperidine-1-carboxylate
(3R,5S)-1-(tert-Butoxycarbonyl)-5-[{[1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]piperidine-3-carboxylic acid (265 mg), phenylenediamine (54 mg), 1H-benzotriazol-1-ol (95 mg) and N,N-diisopropylethylamine (259 μl) were dissolved in DMF (5 ml), WSC.HCl (144 mg) was added and the mixture was stirred at room temperature for 15 hr. The reaction mixture was diluted with aqueous sodium bicarbonate, and extracted with ethyl acetate. The extract was washed successively with water and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was is dissolved in acetic acid (5 ml), and the mixture was stirred at 80° C. for 5 hr. The mixture was cooled to room temperature, and the reaction mixture was concentrated. To the residue was added aqueous sodium bicarbonate, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was subjected to silica gel column chromatography, and a fraction eluted with ethyl acetate was concentrated under reduced pressure to give the object product (115 mg).

reactant | (3R,5S)-1-(tert-Butoxycarbonyl)-5-[{[1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]piperidine-3-carboxylic acid | 265 mg | C(C)(C)(C)OC(=O)N1C[C@@H](C[C@@H](C1)N(CC(C)C)C(=O)C1=NC2=C(N1CCCCOC)C=CC=C2)C(=O)O | C28H42N4O6
reactant | phenylenediamine | 54 mg | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | 1H-benzotriazol-1-ol | 95 mg | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
reactant | N,N-diisopropylethylamine | 259 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | WSC.HCl | 144 mg | CCN=C=NCCCN(C)C.Cl
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | Tert-butyl (3R,5S)-3-(1H-benzimidazol-2-yl)-5-[{[1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]piperidine-1-carboxylate | 115 mg | N1C(=NC2=C1C=CC=C2)[C@H]2CN(C[C@H](C2)N(CC(C)C)C(=O)C2=NC1=C(N2CCCCOC)C=CC=C1)C(=O)OC(C)(C)C | C34H46N6O4
